US07250442B2
1-(2-Chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Dissolve 1-(2-chloro-benzyl)-3-hydroxy-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one (430 mg, 1.05 mmol) in dichloroethane (15 mL) and treat with triethylsilane (0.503 mL, 3.15 mmol) and boron trifluoride diethyl etherate (0.038 mL, 0.3 mmol) under nitrogen. Heat at 50° C. for 24 h. Add more triethyl silane (0.250 mL, 1.57 mmol) and boron trifluoride diethyl etherate (0.030 mL, 0.24 mmol) and continue for 6 h. at which time reaction complete. Concentrate in vacuo and purify by flash chromatography (gradient of 5% EtOAc/hexanes to 25% EtOAc/hexanes) to obtain 319 mg (78%) of the title compound as a white solid. MS (ES): m/z=392 (M+1), 390 (M−1); 1H NMR(DMSO-d6): δ7.54 (m, 1H), 7.36-7.29 (m, 2H), 7.25 (t, J=7.9, 7.6 Hz, 1H), 7.18-7.13 (m, 2H), 7.03 (t, J=7.4 Hz, 1H), 6.88 (d, J=7.9 Hz, 1H), 6.85 (s, 2H), 5.02 (s, 2H), 4.90 (s, 1H), 3.65 (s, 3H), 2.20 (s, 6H).

reactant | 1-(2-chloro-benzyl)-3-hydroxy-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 1.05 mmol, 430 mg | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC(=C(C(=C2)C)OC)C)O)=O)C=CC=C1 | C24H22ClNO3
reactant | triethylsilane | 3.15 mmol, 0.503 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 0.3 mmol, 0.038 mL | B(F)(F)F.CCOCC
reactant | triethyl silane | 1.57 mmol, 0.250 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 0.24 mmol, 0.030 mL | B(F)(F)F.CCOCC
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 1-(2-Chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 319 mg, 78% | ClC1=C(CN2C(C(C3=CC=CC=C23)C2=CC(=C(C(=C2)C)OC)C)=O)C=CC=C1 | C24H22ClNO2
